US07943622B2
Step 1. Synthesis of 4-nitrophenyl 2,3-dihydro-1H-inden-5-ylcarbamate
5-Aminoindan (212 mg, 1.59 mmol) was dissolved in CH2Cl2 (10 mL), p-nitrophenyl chloroformate (417 mg, 2.07 mmol) was added, and the reaction mixture was stirred at rt overnight. The solid was removed by filtration (discarded), and the filtrate was concentrated under reduced pressure. This gave the title compound as a grey solid which was about 50% pure and was used without further purification. LC-MS: RT=9.98 min, [M+H]+=299.1.

reactant | 5-Aminoindan | 1.59 mmol, 212 mg | NC=1C=C2CCCC2=CC1 | C9H11N
reactant | p-nitrophenyl chloroformate | 2.07 mmol, 417 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-nitrophenyl 2,3-dihydro-1H-inden-5-ylcarbamate | C1CCC2=CC(=CC=C12)NC(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C16H14N2O4
